US03946000
7-Amino-3-(s-triazolo[4,3-b]pyridazin-3-ylthiomethyl)-3-cephem-4-carboxylic acid (4g)
7-ACA (1.36 g., 5 mmole) was added portionwise to a solution of 0.68 g. (4.5 mmole) of 3-mercapto-s-triazolo[4,3-b]pyridazine and 0.84 g. (10 mmole) of NaHCO3 in 20 ml. of 0.1 M pH 7.4 phosphate buffer at 40°-50° . The mixture was heated at 80°-85° for 40 min., treated with a small amount of active carbon and acidified with dil. HCl to pH 4 to precipitate 7-amino-3-(s-triazolo[4,3-b]pyridazin-3-ylthiomethyl)-3-cephem-4-carboxylic acid which was collected, washed with 20 ml. of water and dried in vacuo on P2O5 to yield 0.81 g. (49%), M.p. > 300°.

reactant | 7-ACA | 5 mmole, 1.36 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 3-mercapto-s-triazolo[4,3-b]pyridazine | 4.5 mmole | SC1=NN=C2N1N=CC=C2 | C5H4N4S
reactant | NaHCO3 | 10 mmole | C(=O)(O)[O-].[Na+]
reactant | phosphate | 0.1 M, pH 7.4 | P(=O)([O-])([O-])[O-]
reactant | HCl | Cl | ClH
product | 7-Amino-3-(s-triazolo[4,3-b]pyridazin-3-ylthiomethyl)-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C3N2N=CC=C3)C(=O)O)C1=O | C13H12N6O3S2
